US06617124B1
Preparation of 7-Methoxy-4-(methylaminomethyl)coumarin
A solution of methylamine in tetrahydrofuran (2M, 1.10 ml) was added to an ice-cooled mixture of 4-bromomethyl-7-methoxycoumarin (0.30 g), potassium carbonate (0.5 g) and dichloromethane (10 ml). The mixture was stirred at room temperature for 2 days then added to an aqueous solution of potassium carbonate. The organic phase was washed with water, dried (MgSO4) and evaporated. The residue was purified by chromatography on silica gel (eluent 10% methanol in dichloromethane), then crystallised from methanol to give the title compound as a white solid (0.14 g).

reactant | methylamine | CN | CH5N
reactant | 4-bromomethyl-7-methoxycoumarin | 0.30 g | BrCC1=CC(OC2=CC(=CC=C12)OC)=O | C11H9BrO3
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | tetrahydrofuran | 2M, 1.10 ml | O1CCCC1 | C4H8O
product | 7-Methoxy-4-(methylaminomethyl)coumarin | 0.14 g | COC1=CC=C2C(=CC(OC2=C1)=O)CNC | C12H13NO3
